US07109219B2
N1-Isopropyl-5-(2-(pyrrolidin-1-ylcarbonyl)amino-4-pyridyl)oxy-1H-1-indolecarboxamide
N1-Isopropyl-5-(2-amino-4-pyridyl)oxy-1H-1-indolecarboxamide (90 mg, 0.29 mmol) was suspended in tetrahydrofuran (2 ml) at room temperature; triethylamine (0.121 mg, 0.868 mmol) and phenyl chloroformate (0.08 ml, 0.633 mmol) was added thereto while stirring; and the reaction mixture was stirred at room temperature for 2 hours. Water was added to the reaction mixture; this was subjected to extraction with ethyl acetate, washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. N,N-Dimethylformamide (1 ml) and pyrrolidine (0.2 ml, 2.39 mmol) was added to the residue, and stirred at room temperature overnight. The reaction mixture was partitioned between ethyl acetate and water; the organic layer was dried over anhydrous sodium sulfate. This solution was concentrated under reduced pressure; and the residue was purified by silica gel column chromatography (Fuji Silysia NH, ethyl acetate-methanol). The resultant was washed with a solvent mixture (ether:hexane=1:1); and the solid was filtered off to yield the title compound as crystals (65 mg).

reactant | N1-Isopropyl-5-(2-amino-4-pyridyl)oxy-1H-1-indolecarboxamide | 0.29 mmol, 90 mg | C(C)(C)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)N | C17H18N4O2
reactant | triethylamine | 0.868 mmol, 0.121 mg | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.633 mmol, 0.08 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | pyrrolidine | 2.39 mmol, 0.2 ml | N1CCCC1 | C4H9N
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | N,N-Dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | N1-Isopropyl-5-(2-(pyrrolidin-1-ylcarbonyl)amino-4-pyridyl)oxy-1H-1-indolecarboxamide | 65 mg | C(C)(C)NC(=O)N1C=CC2=CC(=CC=C12)OC1=CC(=NC=C1)NC(=O)N1CCCC1 | C22H25N5O3
